US05523421
50 g(351.8 mmol) of kojic acid was dissolved in 250 ml of N,N-dimethylformamide. The resulting solution was cooled in a ice bath of 10° C. and 30 ml(411.3 mmole) of thionyl chloride was added dropwise thereto. The mixture was stirred at a room temperature for 2 hours and 2000 ml of ice water was added. The precipitates were filtered and dissolved into 1000 ml of ethyl acetate. The reaction product was dried over magnesium sulfate, decolored with active charcoal and filtered. The filtrate was concentrated and hexane was added to give crystals, which was then dried under vacuum to give 37.5 g(66.83%) of the desired chlorokojic acid as a yellow solid.

reactant | kojic acid | 351.8 mmol, 50 g | C1=C(OC=C(C1=O)O)CO | C6H6O4
reactant | thionyl chloride | 411.3 mmole, 30 ml | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | chlorokojic acid | 37.5 g, 66.83% | C1=C(OC=C(C1=O)O)CCl | C6H5ClO3
